US09387204B2
Step 5: 3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)imidazo[1,2-a]pyrimidine
0.14 ml triethylamine is added to a solution of 156 mg 4-(3-phenylimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde in 10 ml methanol. To this solution a solution of 140 mg 2-(5-Piperidin-1,2,4]triazol-3-yl)-pyridine*2HCl (Intermediate A prepared from tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate and pyridine-2-carbonitrile according to a procedure described in U.S. Pat. No. 4,011,218 or WO2005100344) is added, followed by 0.07 ml glacial acetic acid and 198 mg NaBH(OAc)3. The resulting mixture is stirred at room temperature. Three additional portions of 198 mg NaBH(OAc)3 are added after 2, 4 and 20 hours. The solvents is removed by evaporation after 24 h and the residue purified by chromatography on silica gel (dichlormethan/methanol).

reactant | 4-(3-phenylimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde | 156 mg | C1(=CC=CC=C1)C1=C(N=C2N1C=CC=N2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | pyridine-2-carbonitrile | N1=C(C=CC=C1)C#N | C6H4N2
reactant | NaBH(OAc)3 | 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 0.07 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
product | 3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)imidazo[1,2-a]pyrimidine | C1(=CC=CC=C1)C1=C(N=C2N1C=CC=N2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC=CC=C2 | C31H28N8
